US04003999
A cold solution (10° C.) of sodium acetylsalicylate was prepared using 25 gms. of aspirin, 8.65 gms. of sodium carbonate and 250 ml. of distilled water. The solution was stirred until complete solution occurred. A cold solution (5° C.) of tea was prepared by dissolving 6.25 gms. of instant tea in 750 ml. of distilled water. The two cold solutions were combined, maintained below 10° C. and stirred while 18.0 ml. of glacial acetic acid was added. After one hour an additional 25 ml. of glacial acetic acid was added in 5 ml. portions at 15 minute intervals. The mixture was stirred 20 minutes after the final acid addition, the coprecipitate collected by filtration after decanting the clear supernatant liquid and the coprecipitate thoroughly washed with 200 ml. of glycine buffer. The air dried material weighed 13 gms. Analysis of the coprecipitate showed in contained 95.5% aspirin, 3.67% tea constituent, 0.23% salicyclic acid and 0.6% water.

reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | sodium acetylsalicylate | C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1.[Na+] | InChI=1S/C9H8O4.Na/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2-5H,1H3,(H,11,12);/q;+1/p-1
